US05891871
7,8-Methylenedioxy-1-(4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
A solution of methyl 4,5-methylenedioxy-2-(4-nitrobenzoyl)phenylacetate (90 mg, 0.26 mmol), hydrazine hydrate (50 μL, 0.88 mmol), and acetic acid (40 μL) in ethanol (15 mL) was refluxed for 4 days. A yellow solid precipitated out from the solution. After cooling, the solvent was removed via pipette and the solid was washed with EtOAc (twice) and hexane, dried in vacuo to provide the title compound (40 mg, 47%), mp: 293°-295° C. 1H NMR (DMSO-d6) 11.2 (s, 1H), 8.31(d, 2H, J=8.8), 7.79 (d, 2H, J=8.8), 7.13 (s, 1H), 6.65 (s, 1H), 6.12 (s, 2H), 3.45 (s, 2H). Anal. Calcd. for C16H11N3O5 : C, 59.08; H, 3.41; N, 12.92. Found: C, 59.05; H, 3.43; N, 2.83.

reactant | methyl 4,5-methylenedioxy-2-(4-nitrobenzoyl)phenylacetate | 0.26 mmol, 90 mg | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H13NO7
reactant | hydrazine hydrate | 0.88 mmol, 50 μL | O.NN
reactant | acetic acid | 40 μL | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 7,8-Methylenedioxy-1-(4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 40 mg, 47% | C1OC=2C(=CC3=C(CC(NN=C3C3=CC=C(C=C3)[N+](=O)[O-])=O)C2)O1 | C16H11N3O5
